US07122543B2
N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid (60 mg, 0.1415 mmol), 4-dimethylaminopyridine (8.6 mg, 0.0704 mmol) and piperidine (24 mg, 0.2823 mmol) were dissolved in methylene chloride (5 ml), WSC-HCl (81 mg, 0.4225 mmol) was added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (62 mg, 0.1265 mmol, 89%).

reactant | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid | 0.1415 mmol, 60 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | piperidine | 0.2823 mmol, 24 mg | N1CCCCC1 | C5H11N
reactant | WSC HCl | 0.4225 mmol, 81 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-dimethylaminopyridine | 0.0704 mmol, 8.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine | 0.1265 mmol, 62 mg, 89% | COC=1C(=C(CC2=CC(=C(C(=O)N3CCCCC3)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C29H34N2O5
